US07897597B2
Cesium carbonate (176 g, 1.13 mol) was added to a solution of 5-acetoxy-2-(5-methyltetrazol-1-yl)benzoic acid (164 g, 0.620 mol) in 1.8 L of acetone. The mixture was stirred vigorously and iodoethane (116 g, 0.682 mol) diluted with 100 mL of acetone was added dropwise over a one-hour period. The reaction was stirred overnight at ambient temperature and was then concentrated under reduced pressure. The resulting solid was partitioned between dichloromethane and water. The aqueous fraction was extracted with dichloromethane and the combined organic fractions were dried over sodium sulfate, filtered, and concentrated to give 166 g of ethyl 5-acetoxy-2-(5-methyltetrazol-1-yl)benzoate as a brown oil.

reactant | Cesium carbonate | 1.13 mol, 176 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-acetoxy-2-(5-methyltetrazol-1-yl)benzoic acid | 0.620 mol, 164 g | C(C)(=O)OC=1C=CC(=C(C(=O)O)C1)N1N=NN=C1C | C11H10N4O4
reactant | iodoethane | 0.682 mol, 116 g | ICC | C2H5I
solvent | acetone | 1.8 L | CC(=O)C | C3H6O
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | ethyl 5-acetoxy-2-(5-methyltetrazol-1-yl)benzoate | 166 g | C(C)(=O)OC=1C=CC(=C(C(=O)OCC)C1)N1N=NN=C1C | C13H14N4O4
